US07067658B2
[4-(2-Chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine (30.0 mg, 0.076 mmol) and SnCl2.H2O (43.2 mg, 0.23 mmol) were treated substantially as described in Part D of Example 74a to yield 30 mg (100% crude) of 4-(2-Chloro-4-dimethylamino-5-fluoro-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine: MS (EI) m/z 367.23 [(M+H)+, 100].

reactant | [4-(2-Chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 0.076 mmol, 30.0 mg | ClC1=C(C=C(C(=C1)N(C)C)F)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-] | C18H22ClFN4O3
reactant | SnCl2.H2O | 0.23 mmol, 43.2 mg | Cl[Sn]Cl.O
product | 4-(2-Chloro-4-dimethylamino-5-fluoro-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine | 30 mg, 100% | ClC1=C(C=C(C(=C1)N(C)C)F)C1=C(C(=NC=C1)NC(CC)COC)N | C18H24ClFN4O
